US05441961
(8β)-N-(trans-4-acetamidocyclohexyl)-1-isopropyl-6-methylergoline-8-carboxamide
To a solution of 620 mg of (8β)-N-(trans-4-aminocyclohexyl)-1-isopropyl-6-methylergoline-8-carboxamide in 100 ml of dry tetrahydrofuran were added 222 μl of triethylamine. The solution was cooled by means of an external ice bath and 118 μl of acetyl chloride were added in dropwise fashion. The mixture was stirred at room temperature under a nitrogen atmosphere for 2.5 hours. The reaction mixture was concentrated in vacuo and ethyl acetate, water, and 2N sodium hydroxide were added. The layers were separated and the aqueous layer extracted an additional three times with ethyl acetate and six times with methylene chloride. The combined organic layers were washed twice with water, once with a saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo to provide 690 mg of a pale yellow solid. This material was crystallized from tetrahydrofuran/ethanol/hexanes to provide 259 mg of title product as a tan powder, m.p. >280° C. Analytical high pressure liquid chromatography indicated the material was 97.9% pure. NMR, MS

reactant | (8β)-N-(trans-4-aminocyclohexyl)-1-isopropyl-6-methylergoline-8-carboxamide | 620 mg | N[C@@H]1CC[C@H](CC1)NC(=O)[C@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)C(C)C)C | C25H36N4O
reactant | triethylamine | 222 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 118 μl | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (8β)-N-(trans-4-acetamidocyclohexyl)-1-isopropyl-6-methylergoline-8-carboxamide | 690 mg | C(C)(=O)N[C@@H]1CC[C@H](CC1)NC(=O)[C@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)C(C)C)C | C27H38N4O2
